* C:\Users\natha\Documents\Everything\UWRT\Electrical\GIT\electric_boogaloo\TalosBoards\Acoustics\LTSpice\Acoustics System.asc
XX1 N002 N003 envelopedetector
XX2 BV N005 4p_bp_filter
B1 BV 0 V=(V(LO)*V(AF))/10
V1 IN 0 PWL file=A_trunk.txt
V2 LO 0 SINE(0 5 72.5k)
XU1 N005 N001 +15 -15 N002 level1 Avol=1Meg GBW=5Meg Slew=12Meg Vos=3m En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V3 +15 0 15
V4 -15 0 -15
R1 N002 N001 6k
R2 N001 0 1k
XX3 N003 N004 thresholddetector
XAFE AF IN afe_bandpass_v3

* block symbol definitions
.subckt envelopedetector IN OUT
D1 IN OUT 1N914
R1 OUT 0 10k
C1 OUT 0 10µ
.ends envelopedetector

.subckt 4p_bp_filter IN OUT
XU1 N002 N001 +15 -15 N001 level2 Avol=1Meg GBW=5Meg Slew=12Meg Vos=3m Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 -15 0 -15
V2 +15 0 15
R1 N002 IN {R} tol=1 pwr=.25
C1 N002 0 {C} V=16
L1 N002 0 {L}
R2 OUT N001 {R} tol=1 pwr=.25
C2 OUT 0 {C} V=16
L2 OUT 0 {L}
I1 N001 0 30p
I2 N002 0 30p
.param R=1450
.param L=12u C=0.22u
.ends 4p_bp_filter

.subckt thresholddetector IN OUT
R1 5V N001 9k
R2 N001 0 1k
V1 5V 0 5
V3 3V3 0 3.3
XU1 IN N001 3V3 0 OUT level2 Avol=1Meg GBW=5Meg Slew=12Meg Vos=3m Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.ends thresholddetector

.subckt afe_bandpass_v3 OUT IN
R1 N002 IN 309
R2 N001 0 1k
R3 OUT N001 1k
L1 N002 0 2.2m
C1 N002 0 13n
XU1 N002 N001 15V -15V OUT level2 Avol=1Meg GBW=5Meg Slew=12Meg Vos=3m Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 15V 0 15
V2 -15V 0 -15
.ends afe_bandpass_v3

.model D D
.lib C:\Users\natha\AppData\Local\LTspice\lib\cmp\standard.dio
.tran .25
* Testing Sources
* (20k max)\nTrimmer\n|\nV
.lib UniversalOpAmp1.lib
.lib UniversalOpAmp2.lib
.backanno
.end
